US07622471B2
3) 1-Benzhydryl-2,2-dimethylazetidin-3-one
Into 3-(benzhydrylamino)-3-methylbutan-2-one (6.5 g) in acetic acid (20 mL), HCl gas was blown up to saturation, and bromine (1.25 mL) was added dropwise thereto, followed by stirring for 3 hours. 20% Aqueous sodium hydroxide was added to the reaction mixture, and thereby pH of the mixture was adjusted at 14 or higher, followed by partitioning by use of carbon tetrachloride. The organic layer was washed with water. The solvent was evaporated under reduced pressure, and to the residue, N,N-dimethylformamide (30 mL) and saturated aqueous sodium hydrogencarbonate (7 mL) were added, followed by stirring for 3 minutes. The reaction mixture was partitioned between water and carbon tetrachloride. The organic layer was washed twice with saturated brine, and then dried over magnesium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified through silica gel column chromatography, to thereby give 1-benzhydryl-2,2-dimethylazetidin-3-one as a solid (754 mg, 12%).

reactant | 3-(benzhydrylamino)-3-methylbutan-2-one | 6.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)=O)(C)C | C18H21NO
reactant | bromine | 1.25 mL | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | HCl | Cl | ClH
product | 1-Benzhydryl-2,2-dimethylazetidin-3-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C(C1)=O)(C)C | C18H19NO
